US07875639B2
(2-Iminobenzothiazol-3-yl)-acetic acid ethyl ester hydrobromide
A mixture of benzothiazol-2-ylamine (1.0 g, 6.6 mmol) and bromoacetic acid ethyl ester (0.86 mL, 7.9 mmol) in 30 mL of acetone was heated at 50° C. for 6 hours. The mixture was cooled to ambient temperature and the solid was triturated with ethanol, collected by filtration, and dried under vacuum to provide 1.8 g (86%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 1.25 (t, J=7.1 Hz, 3 H), 4.22 (q, J=7.1 Hz, 2 H), 5.28 (s, 2 H), 7.44 (td, J=7.6, 1.0 Hz, 1 H), 7.55 (td, J=7.8, 1.4 Hz, 1 H), 7.68 (d, J=7.8 Hz, 1 H), 8.01 (dd, J=8.1, 1.0 Hz, 1 H), 10 3 (s, 1H); MS (DCI/NH3) m/z 237 (M+H)+.

reactant | benzothiazol-2-ylamine | 6.6 mmol, 1.0 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | bromoacetic acid ethyl ester | 7.9 mmol, 0.86 mL | C(C)OC(CBr)=O | C4H7BrO2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | (2-Iminobenzothiazol-3-yl)-acetic acid ethyl ester hydrobromide | 1.8 g, 86% | Br.C(C)OC(CN1C(SC2=C1C=CC=C2)=N)=O | InChI=1S/C11H12N2O2S.BrH/c1-2-15-10(14)7-13-8-5-3-4-6-9(8)16-11(13)12;/h3-6,12H,2,7H2,1H3;1H
